US07547680B2
4-Benzyloxy-3-(4-benzyloxybutoxy)benzylamine
Lithium aluminium hydride (2.6 g) was suspended in tetrahydrofuran (30 mL), and to the mixture was added dropwise a solution of 4-benzyloxy-3-(4-benzyloxybutoxy)benzonitrile (5.9 g) in tetrahydrofuran (30 mL) under ice-cooling. The mixture was stirred at 60° C. for 2 hours. After the mixture was cooled in an ice bath, ethanol and water were successively added dropwise to the reaction mixture. To the reaction mixture was added anhydrous sodium sulfate, and the insoluble material was removed by filtration through celite. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by column chromatography on aminopropylated silica gel (eluent: ethyl acetate/hexane=1/5) to give the title compound (2.5 g).

reactant | Lithium aluminium hydride | 2.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-benzyloxy-3-(4-benzyloxybutoxy)benzonitrile | 5.9 g | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)OCCCCOCC1=CC=CC=C1 | C25H25NO3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-Benzyloxy-3-(4-benzyloxybutoxy)benzylamine | 2.5 g | C(C1=CC=CC=C1)OC1=C(C=C(CN)C=C1)OCCCCOCC1=CC=CC=C1 | C25H29NO3
